US06465507B2
6,7-Dihydro-2H-pyrano[3,4-c]pyrrol-4-one (5 g, 36 mmol) was formulated under standard Vilsmeier reaction using N,N-dimethylformamide (DMF, 1.2 eq.) and phosphorus oxychloride (POCl3, 1.1 eq.) in dichloromethane. The above mixture was stirred at room temperature for 1 hour. The precipitate salt was filtered, washed with dichloromethane, suspended in water and made basic with 6 N sodium hydroxide to pH=12. The mixture was stirred for 5 minutes and filtered. The solid was washed with ethanol/water mixture (1:1) to give 3.5 g (58%) of 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4]pyrrole-1-carbaldehyde.

reactant | 6,7-Dihydro-2H-pyrano[3,4-c]pyrrol-4-one | 36 mmol, 5 g | C1=C2C(=CN1)C(OCC2)=O | C7H7NO2
reactant | N,N-dimethylformamide | 1.2 eq. | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 1.1 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4]pyrrole-1-carbaldehyde | 3.5 g, 58% | O=C1OCCC2=C1CCN2C=O | C8H9NO3
